US07022851B2
1-(4,6-Dichloro-2-nitro-benzenesulfonyl)-4-[(thymin-1-yl)acetyl]-piperazin-2-one
The title compound (919 mg, 88%) was synthesized by reaction of 1-(4,6-dichloro-2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt (781 mg, 2.0 mmol) with (thymin-1-yl)-acetic acid (368 mg, 2.0 mmol) as per the procedure of example 64. 1H-NMR (500 MHz; DMSO-d6) δ 11.34 (s, 0.6H), 11.32 (s, 0.4H), 8.42 (d, 0.4H), 8.41 (d, 0.6H), 8.32 (d, 0.4H), 8.30 (d, 0.6H), 7.35 (s, 0.6H), 7.27 (s, 0.4H), 4.69 (s, 1.2H), 4.58 (s, 0.8H), 4.42 (s, 0.8H), 4.27 (s, 1.2H), 4.11 (t, 1.2H), 3.97 (t, 0.8H), 3.93 (t, 1.2H), 3.82 (t, 0.8H), 1.74 (s, 3H).

reactant | 1-(4,6-dichloro-2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt | 2.0 mmol, 781 mg | Cl.ClC1=CC(=C(C(=C1)Cl)S(=O)(=O)N1C(CNCC1)=O)[N+](=O)[O-]
reactant | (thymin-1-yl)-acetic acid | 2.0 mmol, 368 mg | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
product | 1-(4,6-Dichloro-2-nitro-benzenesulfonyl)-4-[(thymin-1-yl)acetyl]-piperazin-2-one | 919 mg, 88% | ClC1=CC(=C(C(=C1)Cl)S(=O)(=O)N1C(CN(CC1)C(CN1C(=O)NC(=O)C(C)=C1)=O)=O)[N+](=O)[O-] | C17H15Cl2N5O8S
